US05006536
2-(2-Fluorobenzoyl)-3-thiophenecarboxaldehyde
To 2-(2-fluorobenzoyl)-3-thiophenecarboxaldehyde dimethylacetal was added a solution of absolute ethanol (575 ml) and hydrogen chloride (39 g). The reaction mixture was heated at reflux for 10 mins, with stirring under nitrogen. The solution was cooled to room temperature, diluted with water and ether, and the layers were separated. The aqueous layer was extracted with ether, and the combined organic layers washed with dilute aqueous sodium bicarbonate solution, brine, dried over anhydrous potassium carbonate, filtered and concentrated. The residue was purified by flash column chromatography (silica gel, 0-20% ethyl acetate/hexanes) to afford 20.3 g (27%) of product.

reactant | 2-(2-fluorobenzoyl)-3-thiophenecarboxaldehyde dimethylacetal | COC(C1=C(SC=C1)C(C1=C(C=CC=C1)F)=O)OC | C14H13FO3S
reactant | ethanol | 575 ml | C(C)O | C2H6O
reactant | hydrogen chloride | 39 g | Cl | ClH
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-(2-Fluorobenzoyl)-3-thiophenecarboxaldehyde | 20.3 g, 27% | FC1=C(C(=O)C=2SC=CC2C=O)C=CC=C1 | C12H7FO2S
